US06335459B1
1.0M Lithium hydroxide (1.46 mL, 1.46 mmol) was added to a solution of trans-[3-(3-diphenylcarbamoyloxypropenyl)phenoxy}acetic acid tert-butyl ester (0.56 g, 1.22 mmol) in methanol (2 mL), tetrahydrofuran (2 mL) at room temperature under a nitrogen atmosphere. The mixture was stirred at room temperature for 3 hours. The solvent was evaporated, water was added followed by 2N hydrochloric acid to pH 1-2, and the product was extracted with ethyl acetate. The extract was washed with water, brine, dried over magnesium sulfate, and concentrated to dryness. Recrystallization in diethyl ether gave trans-[3-(3-diphenylcarbamoyloxypropenyl)phenoxy}acetic acid as a white crystalline solid (0.38 g, 78%), m.p. 112.4-113.7° C.

reactant | Lithium hydroxide | 1.46 mmol, 1.0M, 1.46 mL | [OH-].[Li+]
reactant | trans-[3-(3-diphenylcarbamoyloxypropenyl)phenoxy}acetic acid tert-butyl ester | 1.22 mmol, 0.56 g | C(C)(C)(C)OC(COC1=CC(=CC=C1)\C=C\COC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C28H29NO5
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | trans-[3-(3-diphenylcarbamoyloxypropenyl)phenoxy}acetic acid | 0.38 g, 78% | C1(=CC=CC=C1)N(C(=O)OC/C=C/C=1C=C(OCC(=O)O)C=CC1)C1=CC=CC=C1 | C24H21NO5
